US04234598
11.2 G. of 3,4-dihydro-2H-1,5-benzodioxepin-6-yl methylcarbamate, 100 ml. of toluene and 11.3 g. of chloroacetyl chloride are refluxed for 48 hours and then the mixture is evaporated to dryness. The yellow oil which remains is recrystallized from ether/petroleum ether (40°-45° C.). There is obtained 3,4-dihydro-2H-1,5-benzodioxepin-6-yl(chloroacetyl)methylcarbamate, m.p. 63°-64° C.

reactant | 3,4-dihydro-2H-1,5-benzodioxepin-6-yl methylcarbamate | CNC(OC1=CC=CC=2OCCCOC21)=O | C11H13NO4
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4-dihydro-2H-1,5-benzodioxepin-6-yl(chloroacetyl)methylcarbamate | O1CCCOC2=C1C=CC=C2OC(NCC(CCl)=O)=O | C13H14ClNO5
